US05258509
4-Nitrobenzyl (5R,6S)-2-(cyclohepten-1-yl)-6-((1R)-1-hydroxyethyl) -1-carbapen-2-em-3-carboxylate
Under a nitrogen atmosphere, to a solution of 348 mg (1 mmol) of 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl) -2-oxo-1-carbapenam-3-carboxylate in THF (5 ml) was added 0.154 ml (1.1 mmol) of diisopropylamine at -78° C., and the mixture was stirred for 10 minutes. To the mixture was added 0.189 ml (1.08 mmol) of trifluoroacetic anhydride at the same temperature. After 15 minutes, to the mixture was added 5 ml of N-methylpyrrolidinone followed by 20.7 mg of tris(dibenzylideneacetone)dipalladium-chloroform, 42.5 mg (0.08 mmol) of tris(2,4,6-trimethoxyphenyl)phosphine, a solution of 389 mg (1.01 mmol) of cyclohepten-1-yl(tri-n-butyl)tin in N-methylpyrrolidinone (1 ml) and a solution of 225 mg (1.66 mmol) of N-methylpyrrolidinone (2 ml). The -78° C. bath was removed and the reaction mixture quickly raised to ambient temperature using a lukewarm water bath, and the mixture was stirred overnight at room temperature. The reaction mixture was poured into ethyl ether and the organic layer was washed with water followed by saturated aqueous sodium chloride. After the extract was dried over anhydrous magnesium sulfate, the solvent was removed. The residue was purified by silica gel column chromatography (elution with ethyl acetatehexane system) to give 148 mg (yield: 34.7%) of the title compound.

reactant | 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl) -2-oxo-1-carbapenam-3-carboxylate | 1 mmol, 348 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | diisopropylamine | 1.1 mmol, 0.154 ml | C(C)(C)NC(C)C | C6H15N
reactant | trifluoroacetic anhydride | 1.08 mmol, 0.189 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | tris(2,4,6-trimethoxyphenyl)phosphine | 0.08 mmol, 42.5 mg | COC1=C(C(=CC(=C1)OC)OC)P(C1=C(C=C(C=C1OC)OC)OC)C1=C(C=C(C=C1OC)OC)OC | C27H33O9P
reactant | cyclohepten-1-yl(tri-n-butyl)tin | 1.01 mmol, 389 mg | C1(=CCCCCC1)[Sn](CCCC)(CCCC)CCCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | N-methylpyrrolidinone | 1 ml | CN1C(CCC1)=O | C5H9NO
catalyst | tris(dibenzylideneacetone)dipalladium-chloroform | 20.7 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | N-methylpyrrolidinone | 1.66 mmol, 2 ml, 225 mg | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidinone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 4-Nitrobenzyl (5R,6S)-2-(cyclohepten-1-yl)-6-((1R)-1-hydroxyethyl) -1-carbapen-2-em-3-carboxylate | 148 mg, yield: 34.7% | C1(=CCCCCC1)C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O | C23H26N2O6
